US04000144
3.22 g of N-chlorosuccinimide are added to a solution of 7 g of 4-[4-(1-adamantyl)-phenoxy]-butyric acid in 40 ml of absolute dimethylformamide whilst stirring in an anhydrous atmosphere at 0° C. The mixture is then stirred for a further 15 minutes at 0° C, 30 minutes at about 25° C and 9 hours at 50° C. The reaction solution is cooled to 0° C, filtered and treated with 40 ml of ice water. The precipitate formed is filtered off and washed with ice water. It is then recrystallised twice from ethanol. 4-[2-Chloro-4-(1-adamantyl)-phenoxy]-butyric acid of melting point 164°-166° C is thus obtained.

reactant | N-chlorosuccinimide | 3.22 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 4-[4-(1-adamantyl)-phenoxy]-butyric acid | 7 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OCCCC(=O)O)C=C2 | C20H26O3
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-[2-Chloro-4-(1-adamantyl)-phenoxy]-butyric acid | ClC1=C(OCCCC(=O)O)C=CC(=C1)C12CC3CC(CC(C1)C3)C2 | C20H25ClO3
